US04164365
A copolymer of 2-ethylhexyl acrylate/acrylic acid, 50%/50% by weight was prepared. 42.5 grams of the solution of the copolymer was prepared as a 25% by weight solution in 2-ethoxyethanol to which was added 3.75 grams of quinine bisulphate and 8.50 grams of methanol. As in Example 1, an alcoholic solution of a plasticizer, iodine, and hydriodic acid was reacted with the above ingredients to form a wet paste. The dried paste, using heat to aid dispersion, was then suspended in decyl alcohol. The substance was placed in a light valve and satisfactory operation was achieved.

reactant | quinine bisulphate | 3.75 grams | COC1=CC2=C(C=CN=C2C=C1)[C@H]([C@@H]3C[C@@H]4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | methanol | 8.50 grams | CO | CH4O
reactant | iodine | II | I2
reactant | hydriodic acid | I | HI
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
solvent | decyl alcohol | C(CCCCCCCCC)O | C10H22O
product | 2-ethylhexyl acrylate acrylic acid | C(C=C)(=O)OCC(CCCC)CC.C(C=C)(=O)O | InChI=1S/C11H20O2.C3H4O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-2-3(4)5/h6,10H,3-5,7-9H2,1-2H3;2H,1H2,(H,4,5)
